US08729061B2
(2S,3S)-3-Amino-N-cyclopropyl-2-hydroxy-4-methylpentanamide dihydrochloride
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride, Representative Procedure A, starting with (S)-2-amino-3-methylbutan-1-ol in the first step (A1).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC
reactant | (S)-2-amino-3-methylbutan-1-ol | N[C@H](CO)C(C)C | C5H13NO
product | (2S,3S)-3-Amino-N-cyclopropyl-2-hydroxy-4-methylpentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)C(C)C | InChI=1S/C9H18N2O2.2ClH/c1-5(2)7(10)8(12)9(13)11-6-3-4-6;;/h5-8,12H,3-4,10H2,1-2H3,(H,11,13);2*1H/t7-,8-;;/m0../s1
